US09102591B2
(+)-2,3-Dichloro-N-(2-(2-(difluoromethyl)pyrimidin-5-yl)-3-(1-fluorocyclopropyl)propyl)benzamide
The racemic mixture which was prepared in a similar manner to example 3a from 2,3-dichlorobenzoic acid and 2-(2-(difluoromethyl)pyrimidin-5-yl)-3-(1-fluorocyclopropyl)propan-1-amine was separated into the two enantiomers by preparative SFC to yield the title compound. LCMS (MH+): m/z=418.1, tR (minutes, Method F)=2.89. [α]D20=+21.70 (c=3.00 mg/mL,CHCl3)

reactant | 2,3-dichlorobenzoic acid | ClC1=C(C(=O)O)C=CC=C1Cl | C7H4Cl2O2
reactant | 2-(2-(difluoromethyl)pyrimidin-5-yl)-3-(1-fluorocyclopropyl)propan-1-amine | FC(C1=NC=C(C=N1)C(CN)CC1(CC1)F)F | C11H14F3N3
product | (+)-2,3-Dichloro-N-(2-(2-(difluoromethyl)pyrimidin-5-yl)-3-(1-fluorocyclopropyl)propyl)benzamide | ClC1=C(C(=O)NCC(CC2(CC2)F)C=2C=NC(=NC2)C(F)F)C=CC=C1Cl | C18H16Cl2F3N3O
